US07728009B1
To a solution of 5-methyl-2-naphthalen-1-yl-3H-imidazole-4-carboxylic acid ethyl ester (280 mg) in THF (8 ml) is added DIBAL-H (3.3 ml, 1.5 M in toluene) at 0° C. The resulting solution is stirred at rt for 2 hr, and quenched with brine. The THF layer is separated and then evaporated. The residue is dissolved in EtOAc, washed with water and brine, dried and solvent evaporated to afford (5-methyl-2-naphthalen-1-yl-3H-imidazol-4-yl)-methanol.

reactant | 5-methyl-2-naphthalen-1-yl-3H-imidazole-4-carboxylic acid ethyl ester | 280 mg | C(C)OC(=O)C=1NC(=NC1C)C1=CC=CC2=CC=CC=C12 | C17H16N2O2
reactant | DIBAL-H | 1.5 M, 3.3 ml | CC(C)C[AlH]CC(C)C
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (5-methyl-2-naphthalen-1-yl-3H-imidazol-4-yl)-methanol | CC1=C(NC(=N1)C1=CC=CC2=CC=CC=C12)CO | C15H14N2O
